US08026257B2
(±)-7-(1-((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)ethyl)-N,N-dimethyl-1H-indazol-5-amine.
(±)-tert-Butyl 4-((1-(5-(dimethylamino)-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (138 mg, 0.278 mmol) was dissolved in trifluoroacetic acid (20% in dichloromethane, 7.5 mL) and stirred at room temperature for 30 min. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 101 mg (92%). LC/MS (HPLC method 3): tR=1.133 min, 397.42(MH)+.

reactant | (±)-tert-Butyl 4-((1-(5-(dimethylamino)-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.278 mmol, 138 mg | CN(C=1C=C2C=NNC2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C | C28H37FN4O3
solvent | trifluoroacetic acid | 7.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-7-(1-((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)ethyl)-N,N-dimethyl-1H-indazol-5-amine | FC1=CC=C(C=C1)C1(CCNCC1)COC(C)C=1C=C(C=C2C=NNC12)N(C)C | C23H29FN4O
